US04125726
6-(2-Chlorophenyl)-1,8-dichloro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid
A solution of 2 g (0.005 mole) of 6-(2-chlorophenyl)-1,8-dichloro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, methyl ester 0.7 g (0.012 mole) of potassium hydroxide, 60 ml of methanol and 2 ml of water was refluxed under argon for 2.5 hrs. The solution was evaporated in vacuo at 50°-60°. An aqueous solution of the residue was acidified with acetic acid to give a gelatinous, white precipitate. The precipitate was collected by filtration, washed with water and air dried on the funnel overnight to give off-white solid. Recrystallization from a solution of ethanol and methylene chloride gave white plates with mp 250°-253° (dec).

reactant | 6-(2-chlorophenyl)-1,8-dichloro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, methyl ester | 0.005 mole, 2 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)C(=NC2C(=O)OC)Cl | C19H12Cl3N3O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | methanol | 60 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | 6-(2-Chlorophenyl)-1,8-dichloro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)C(=NC2C(=O)O)Cl | C18H10Cl3N3O2
